US08372379B2
1-trityl-3,4,5-tris(hydroxymethyl)pyrazole:
To a solution of trimethyl 1-trityl-3,4,5-pyrazoletricarboxylate (3.034 g, 6.26 mmol) in dry THF (60 mL) were added 50 mL of 1.0 M LiAlH4 in Et2O. The resulting solution was stirred for about 16 h at room temperature (20-25° C.). After this time, the reaction was quenched by the slow addition of 1.5 mL of distilled water, followed by addition of 1.5 mL of 10% NaOH and 3.5 mL of water. The solids formed were removed by filtration, and 80 mL of dichloromethane was added to the filtrate. The organic phase was separated, washed with distilled water (70 mL) and, after separation from the aqueous phase, was dried over MgSO4. After separation of the organic phase, the solvent was evaporated under vacuum yielding a yellowish solid. Yield: 73% (1.823 g, 4.54 mmol).

reactant | trimethyl 1-trityl-3,4,5-pyrazoletricarboxylate | 6.26 mmol, 3.034 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C(=C1C(=O)OC)C(=O)OC)C(=O)OC | C28H24N2O6
reactant | LiAlH4 | 1.0 M, 50 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 1-trityl-3,4,5-tris(hydroxymethyl)pyrazole | Yield: 73% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C(=C1CO)CO)CO | C25H24N2O3
